US06541521B1
In a manner similar to that described in Example 3, 3-nitro-benzoyl chloride (0.064 g, 0.00035 mol) was allowed to react with 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester (0.052 g, 0.00025 mol), and the resulting intermediate was hydrolyzed to give 0.022 g of 4-[4-(3-nitro-benzoylamino)-phenyl]-4-oxo-butyric acid as a yellow solid; MS-(AP+) MH+343.

reactant | 3-nitro-benzoyl chloride | 0.00035 mol, 0.064 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester | 0.00025 mol, 0.052 g | NC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H13NO3
product | 4-[4-(3-nitro-benzoylamino)-phenyl]-4-oxo-butyric acid | 0.022 g | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC=C(C=C2)C(CCC(=O)O)=O)C=CC1 | C17H14N2O6
